* E:\Descargas\ic_digital\tarea05\p1\BL-discharge.asc
M1 nQ Vdd Vss Vss N_2u l=M1_L w={M1_L*M1_WL}
Vdd Vdd 0 5
VnBL nBL 0
M5 nQ Vdd nBL nQ N_2u l=2u w=2u
Vss Vss 0 0
M3 Vdd nQ Vss Vss N_2u l=M1_L w={M1_L*M1_WL}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\akiles\AppData\Local\LTspice\lib\cmp\standard.mos
.include "../2um_CMOS.modlib"
.param M1_L 2u
.save V(nQ) V(Q) Id(M3) Id(M1)
.step param M1_WL LIST 1 2 3 4 5 6 7 8 9 10
.dc VnBL 0 2.5 0.01
.backanno
.end
