* E:\Descargas\ic_digital\tarea05\p1\core.asc
M2 nQ Q Vdd Vdd P_2u l={M2_L} w={M2_L * M2_WL}
M1 nQ Q Vss Vss N_2u l={M1_L} w={M1_L * M1_WL}
V1 Vdd 0 5
V2 WL 0 5
V4 PRE 0 PULSE(0 {PRECHARGE} 10n 1p 1p 10n 20n 5)
M4 Q nQ Vdd Vdd P_2u l={M2_L} w={M2_L * M2_WL}
M3 Q nQ Vss Vss N_2u l={M1_L} w={M1_L * M1_WL}
M5 nQ WL PRE PRE N_2u l={M5_L} w={M5_L * M5_WL}
M6 Q WL PRE PRE N_2u l={M5_L} w={M5_L * M5_WL}
V5 Vss 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\akiles\AppData\Local\LTspice\lib\cmp\standard.mos
.include "../2um_CMOS.modlib"
.ic V(Q)=5 V(nQ)=0
.save V(Q) V(nQ) V(PRE)
.step param PRECHARGE list 2.7 3.2 3.5 3.9
.tran 35n
.param M1_L=2u M1_WL=3
.param M2_L=2u M2_WL=12
.param M5_L=2u M5_WL=1
.backanno
.end
