* E:\Descargas\ic_digital\tarea05\p1\half-core.asc
M2 nQ Q Vdd Vdd P_2u l={M2_L} w={M2_L * M2_WL}
M1 nQ Q Vss Vss N_2u l={M1_L} w={M1_L * M1_WL}
Vdd Vdd 0 5
VWL WL 0
VnBL nBL 0
M5 nQ WL nBL nBL N_2u l={M5_L} w={M5_L * M5_WL}
Vss Vss 0 0
VBL BL 0
C1 nBL 0 100f
VQ Q 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\akiles\AppData\Local\LTspice\lib\cmp\standard.mos
.include "../2um_CMOS.modlib"
.param M1_L=2u M1_WL=3
.param M2_L=2u M2_WL=12
.param M5_L=2u M5_WL=1
.dc VnBL 0 5 0.01
.backanno
.end
