* E:\Descargas\ic_digital\tarea05\p1\inverter.asc
M2 nQ Q Vdd Vdd P_2u l={M2_L} w={M2_L*M2_WL}
M1 nQ Q Vss Vss N_2u l={M1_L} w={M1_L*M1_WL}
Vdd Vdd 0 5
Vss Vss 0 0
VQ Q 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\akiles\AppData\Local\LTspice\lib\cmp\standard.mos
.include "../2um_CMOS.modlib"
.param M1_L=2u M1_WL=3
.param M2_L=2u
.save V(nQ)
.step PARAM M2_WL LIST 1 3 6 9 12 15 18 21 24
.dc VQ 0 5 0.01
.backanno
.end
